US07557114B2
(b) (2S,6R)-4-(2,3-Dihydro-1H-isoindol-5-yl)-2,6-dimethyl-tetrahydro-pyran-4-ol
Prepared in analogy to Example A62(c) from (2S,6R)-4-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2,6-dimethyl-tetrahydro-pyran-4-ol and hydrogen. Brown oil. MS (m/e): 248.3 ([M+H]+, 100%).

reactant | (2S,6R)-4-(2-benzyl-2,3-dihydro-1H-isoindol-5-yl)-2,6-dimethyl-tetrahydro-pyran-4-ol | C(C1=CC=CC=C1)N1CC2=CC=C(C=C2C1)C1(C[C@@H](O[C@@H](C1)C)C)O | C22H27NO2
reactant | hydrogen | [H][H] | H2
product | (2S,6R)-4-(2,3-Dihydro-1H-isoindol-5-yl)-2,6-dimethyl-tetrahydro-pyran-4-ol | C1NCC2=CC(=CC=C12)C1(C[C@@H](O[C@@H](C1)C)C)O | C15H21NO2
